US05256656
7-Oxo-3,9-dimethyl-3,9-diazabicyclo[3.3.1]nonane
To N,N-bis(2,2-dimethoxyethyl)methylamine (61 g, 0.30 mol) was added distilled water (630 ml) and concentrated hydrochloric acid (101 ml, 1.21 mol) and a solution was heated to reflux for 1 hr. Subsequently, to the solution was added under ice-cooling an aqueous solution of sodium hydroxide (48.5 g sodium hydroxide, 200 ml water)(which was called "A solution"). On one hand, "A solution" was added at room temperature while stirring to an aqueous solution of disodium phosphate 12 hydrate (114.4 g) and citric acid (54.1 g) in water (709 ml) which was separately prepared. To a mixture were added acetone dicarboxylic acid (85.8 g, 0.59 mol) and methylamine hydrochloride (35.9 g, 0.53 mol). An aqueous sodium hydroxide solution was added to adjust the pH to 5 and the mixture was reacted for 15 hrs. To the reaction solution was added dropwise under ice-cooling concentrated hydrochloric acid (175 ml). The aqueous layer was washed with ethyl acetate ( 1000 ml ×2) and sodium hydroxide (126 g) was added to the aqueous layer. The layer was extracted with chloroform (1000 ml ×3), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue (23 g) was separated by column chromatography (Florisil, ethyl acetate) to give a crude product. Recrystallization from hexane afforded the title compound (6.2 g).

reactant | N,N-bis(2,2-dimethoxyethyl)methylamine | 0.30 mol, 61 g | COC(CN(CC(OC)OC)C)OC | C9H21NO4
reactant | hydrochloric acid | 1.21 mol, 101 ml | Cl | ClH
reactant | sodium hydroxide | 200 ml, 48.5 g | [OH-].[Na+]
reactant | disodium phosphate 12 hydrate | 114.4 g | O.O.O.O.O.O.O.O.O.O.O.O.OP(=O)([O-])[O-].[Na+].[Na+]
reactant | citric acid | 54.1 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | acetone dicarboxylic acid | 0.59 mol, 85.8 g | CC(=O)C.C(=O)O.C(=O)O
reactant | methylamine hydrochloride | 0.53 mol, 35.9 g | Cl.CN
reactant | hydrochloric acid | 175 ml | Cl | ClH
solvent | water | 709 ml | O | H2O
solvent | water | 630 ml | O | H2O
product | 7-Oxo-3,9-dimethyl-3,9-diazabicyclo[3.3.1]nonane | 6.2 g | O=C1CC2CN(CC(C1)N2C)C | C9H16N2O
